US04151302
1 g. of 3-(2',4'-difluoro-4-biphenylyl)-3-butenoic acid, obtained by reacting 3-(2',4'-difluoro-4-biphenylyl)-3-oxopropionic acid ethyl ester with triphenylphosphinemethylene and saponifying the reaction product, is dissolved in 25 ml. of ethyl acetate and hydrogenated on 0.1 g. of platinum at 20° and under 1 atmosphere until the absorption of hydrogen has ceased. The mixture is filtered and the filtrate is evaporated to give 3-(2',4'-difluoro-4-biphenylyl)butyric acid, m.p. 109°-110°.

reactant | 3-(2',4'-difluoro-4-biphenylyl)-3-oxopropionic acid ethyl ester | C(C)OC(CC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C17H14F2O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2',4'-difluoro-4-biphenylyl)butyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)O)C | C16H14F2O2
